US08703907B2
Preparation of Fluorescein-Conjugated to PEG-Coated Dendrimer
To 500 μL of a 0.2 mM solution of [DBCO-Lys(mPEG5kD)]8[Lys]4[Lys]2Lys-DAB-DNP in tetrahydrofuran was added 103 μL of the 11.7 mM linked fluorescein azide solution in DMSO prepared in Example 34. The reaction solution was incubated in the dark for 17 hours at which time HPLC analysis indicated complete consumption of the fluorescein azide. A further 50 μL aliquot of the linked fluorescein azide was added and the reaction incubated in the dark for 24 hours. HPLC analysis now showed residual fluorescein azide. The reaction solution was diluted with water (2 mL) and was dialysed (MWCO 12-14K) against 10 mM sodium acetate, pH 5, (250 mL) for 22 hours in the dark. The buffer was replaced with methanol (250 mL) and the dialysis continued for 7 hours with a change of solvent after 4 hours. The retentate was concentrated on the roto-vap. Compounds include those wherein R1 is phenylsulfonyl, 4-chlorophenylsulfonyl and morpholinosulfonyl.

reactant | fluorescein azide | C=1C=CC(=C(C1)C2=C3C=CC(=O)C=C3OC4=C2C=CC(=C4)O)C(=O)O.[N-]=[N+]=[N-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | DMSO | CS(=O)C | C2H6OS
product | Fluorescein | C=1C=CC(=C(C1)C2=C3C=CC(=O)C=C3OC4=C2C=CC(=C4)O)C(=O)O | C20H12O5
